US07842688B2
c) 3-(1-Trityl-1H-imidazol-4-yl)phenol
A solution of 0.389 g of 4-bromo-1-trityl-1H-imidazole, 0.152 g of 3-hydroxyphenylboric acid and 10 ml of toluene is admixed with 3 ml of ethanol and 10 ml of aqueous 2N sodium carbonate solution. The mixture is purged with argon for 15 minutes and then 0.026 g of tetrakis(triphenylphosphine)palladium(0) is added. The reaction mixture is stirred at 100° C. for 48 hours, then cooled and poured onto 75 ml of aqueous saturated sodium hydrogencarbonate solution. The mixture is extracted three times with 75 ml of dichloromethane. The combined organic phases are washed with 75 ml of brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.13 (1:2 EtOAc-heptane); Rt=4.33.

reactant | 4-bromo-1-trityl-1H-imidazole | 0.389 g | BrC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17BrN2
reactant | 3-hydroxyphenylboric acid | 0.152 g | OC=1C=C(C=CC1)OB(O)O | C6H7BO4
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2N | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-(1-Trityl-1H-imidazol-4-yl)phenol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C=1C=C(C=CC1)O | C28H22N2O
